US05530028
Preparation of 2-Isopropyl-3-Methoxybenzoic Acid
A 500 mL round-bottom flask equipped with nitrogen purge, septum inlet, and magnetic stirring, was dried under an atmosphere of nitrogen and charged with 5 g (21.2 mmoles) of 2-(2,3-dimethoxyphenyl)-5,5-dimethyloxazoline (which was synthesized in a like manner according to EXAMPLE 10) and 100 mL of tetrahydrofuran. The solution was cooled to 10° C. and 58 mL of 2N isopropylmagnesium chloride/ether was added. The mixture was stirred at room temperature overnight and poured into a 1:1 mixture of saturated ammonium chloride and ice. The mixture was extracted twice with ether; the organic layers were combined, dried over magnesium sulfate, and the solvent was removed in vacuo to yield 5.3 g of a yellow oil. This was dissolved in 200 mL of 6N hydrochloric acid and heated at reflux for 8.5 hours. The mixture was extracted several times with ether, and the combined organic phases were dried over sodium sulfate. The solvent was removed in vacuo to yield 4.6 g of oil which crystallized on standing. 1H NMR (200 MHz, CDCl3), δ=7.29 (1H, dd, 1.5, 7.5 Hz), 7.21 (1H, t, 7.5 Hz), 7.01 (1H, dd, 1.5, 7 Hz), 3.85 (3H, s), 3.65 (1H, m), 1.37 (6H, d, 7 Hz) ppm.

reactant | 2-(2,3-dimethoxyphenyl)-5,5-dimethyloxazoline | 21.2 mmoles, 5 g | COC1=C(C=CC=C1OC)C=1OC(CN1)(C)C | C13H17NO3
reactant | isopropylmagnesium chloride ether | 2N, 58 mL | C(C)(C)[Mg]Cl.CCOCC
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2-Isopropyl-3-Methoxybenzoic Acid | 5.3 g | C(C)(C)C1=C(C(=O)O)C=CC=C1OC | C11H14O3
